US05763489
To a solution of 5-t-butyldiphenylsilyloxy-1-(2-hydroxyethyl)-3,4-dihydronaphthalene (1.0 g) in CH2Cl2 (30 ml) were added Na2CO3 (290 mg) and m-chloroperbenzoic acid (750 mg) at 0° C. After being stirred for 2 hours, the solvent was removed in vacuo. The residue was extracted with ethyl acetate. The mixture was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was dissolved into tetrahydrofuran (20 ml) and LiAlH4 (200 mg) was added at 0° C. After being stirred for 2 hours, the reaction was quenched by saturated potassium sodium tartrate solution. After filtration, the solvent was removed, and the residue was purified by chromatography on silica gel to afford (cis)-5-t-butyldiphenylsilyloxy-1-(2-hydroxyethyl)-2-hydroxy-1,2,3,4-tetrahydronaphthalene (1.1 g).

reactant | 5-t-butyldiphenylsilyloxy-1-(2-hydroxyethyl)-3,4-dihydronaphthalene | 1.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCC=C(C2=CC=C1)CCO | C28H32O2Si
reactant | Na2CO3 | 290 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | m-chloroperbenzoic acid | 750 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | (cis)-5-t-butyldiphenylsilyloxy-1-(2-hydroxyethyl)-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 1.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CC[C@@H]([C@@H](C2=CC=C1)CCO)O | C28H34O3Si
